US03950333
3-(2-Oxazolyl) thiopropylguanidine
Reacting 2-(3-aminopropylthio)oxazole with S-methylisothiourea by the procedure of Example 1 gives the title compound.

reactant | 2-(3-aminopropylthio)oxazole | NCCCSC=1OC=CN1 | C6H10N2OS
reactant | S-methylisothiourea | CSC(N)=N | C2H6N2S
product | 3-(2-Oxazolyl) thiopropylguanidine | O1C(=NC=C1)SCCCNC(=N)N | C7H12N4OS
